US06727256B1
(4-Phenoxyphenyl)-(7-iodoquinolin-4-yl)amine
4-Chloro-7-iodoquinoline (10 g, 34 mmol) [Semenov, V. P.; Studenikov, A. N. Synthesis of 7-iodo-4-aminoquinoline derivatives. Khim. Geterotsikl. Soedin. (1980), Issue 7, 972-5] and 4-phenoxyaniline (6.38 g, 34 mmol) in butanol (75 ml) were heated at gentle reflux (120° C.) overnight (18 hrs). On cooling the resultant precipitate was collected by filtration and washed with acetonitrile (2×50 ml). The resultant solid was suspended in chloroform (500 ml) and 2N sodium carbonate solution (300 ml) and heated at 75° C. for 45 mins. On cooling the resultant precipitate was collected by filtration, washed with water (2×50 ml) and dried to yield the product as a pale brown solid. (9.95 g, 66%) δH [2H6] DMSO 8.35(3H,m), 8.20(1H,s), 8.10(1H,d), 7.85(1H,s), 7.35(4H,m), 7.15(4H,d), 6.75(1H,d).

reactant | 4-Chloro-7-iodoquinoline | 34 mmol, 10 g | ClC1=CC=NC2=CC(=CC=C12)I | C9H5ClIN
reactant | 7-iodo-4-aminoquinoline | IC1=CC=C2C(=CC=NC2=C1)N | C9H7IN2
reactant | 4-phenoxyaniline | 34 mmol, 6.38 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
solvent | butanol | 75 ml | C(CCC)O | C4H10O
product | (4-Phenoxyphenyl)-(7-iodoquinolin-4-yl)amine | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)I | C21H15IN2O
